US04697038
4-Pentadecylsalicylic acid (5.3 g) in dry tetrahydrofuran (60 cm3) is slowly added to stirred lithium aluminium hydride (2.5 g) in dry tetrahydrofuran (25 cm3) and the mixture then stirred and refluxed for five hours to complete the reduction. Work-up by recovery of the tetrahydrofuran, addition of a little ethyl acetate to the cooled residual material, followed by acidifiction and ethereal extraction yields the crude product which is crystallised from light petroleum (40°-60°) to give 4-pentadecylsalicyl alcohol as pale cream prisms, m.p. 94°-95°, (4.05 g).

reactant | 4-Pentadecylsalicylic acid | 5.3 g | C(CCCCCCCCCCCCCC)C=1C=C(C(C(=O)O)=CC1)O | C22H36O3
reactant | lithium aluminium hydride | 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | 4-pentadecylsalicyl alcohol | C(CCCCCCCCCCCCCC)C=1C=C(C(CO)=CC1)O | C22H38O2
